US08461134B2
A mixture of 1-bromo-2-methyl-4-nitrobenzene (15 g, 79 mmol), benzoyl peroxide (2 g, 8 mmol) and NBS (17 g, 95 mmol) in CCl4 (150 mL) was stirred at reflux overnight. The mixture was cooled to room temperature and filtered, the filtrate was washed with water twice, dried over Na2SO4 and concentrated to give 1-bromo-2-(bromomethyl)-4-nitrobenzene as light yellow oil (17 g, 69%). 1H NMR: 400 MHz CDCl3 δ 8.37-8.34 (m, 1H), 8.05-8.02 (m, 1H), 7.77-7.75 (m, 1H), 3.87 (s, 2H).

reactant | 1-bromo-2-methyl-4-nitrobenzene | 79 mmol, 15 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | benzoyl peroxide | 8 mmol, 2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NBS | 95 mmol, 17 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-2-(bromomethyl)-4-nitrobenzene | 17 g, 69% | BrC1=C(C=C(C=C1)[N+](=O)[O-])CBr | C7H5Br2NO2
